US07517873B2
To a mixture of 0.058 g (0.00013 mole) of (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid, 0.054 g (0.00014 mole) of 1-[bis(dimethylamino)-methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 3 mL of N,N-dimethylformamide was added 0.030 mL (0.00019 mole) of ethyldiisopropylamine. The mixture was stirred at room temperature for 30 minutes and then 0.022 g (0.00019 mole) of 4-amino-1-methyl-piperidine was then added. The mixture was stirred at room temperature for 3 hours and was then partitioned between ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were washed successively with water and brine, dried anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-75-25) to give 0.070 g of (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-66) as white powder. HRMS (ES+) m/z Calcd for C30H43N7O3+H [(M+H)+]: 550.3500. Found: 550.3504.

reactant | (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid | 0.00013 mole, 0.058 g | C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)N(C2=C(C=C(C(=O)O)C=C2)OC)C | C24H31N5O4
reactant | 1-[bis(dimethylamino)-methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.00014 mole, 0.054 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropylamine | 0.00019 mole, 0.030 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00019 mole, 0.022 g | NC1CCN(CC1)C | C6H14N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.070 g | C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)N(C2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC)C | C30H43N7O3
